US08912176B2
Preparation of 1-cyclobutyl-4-({1-[(2-methylpyrimidin-5-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane. Potency Range A
To a stirred solution of 2-methylpyrimidine-5-carboxylic acid (23 mg, 0.17 mmol) in DCM (3 ml) was added HOBt (23 mg, 0.17 mmol) and HBTU (64 mg, 0.17 mmol). After 3 hours, a solution of 1-(Azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane (48 mg, 0.17 mmol), in DCM (1 ml) was added and the yellow suspension gradually dissolved to give a yellow solution. The reaction mixture was quenched with saturated NaHCO3 (1 ml) and the aqueous layer extracted with DCM (3×5 ml). The combined organic layers were dried (MgSO4), filtered and concentrated at reduced pressure. Purification by silica FCC (eluting with 99:1 to 95:5 gradient of DCM/2M NH3 in MeOH) gave the title compound (17.4 mg, 29% yield) as pale yellow oil.

reactant | 2-methylpyrimidine-5-carboxylic acid | 0.17 mmol, 23 mg | CC1=NC=C(C=N1)C(=O)O | C6H6N2O2
reactant | HOBt | 0.17 mmol, 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 0.17 mmol, 64 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(Azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane | 0.17 mmol, 48 mg | N1CC(C1)C(=O)N1CCN(CCC1)C1CCC1 | C13H23N3O
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-cyclobutyl-4-({1-[(2-methylpyrimidin-5-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane | 17.4 mg, 29% yield | C1(CCC1)N1CCN(CCC1)C(=O)C1CN(C1)C(=O)C=1C=NC(=NC1)C | C19H27N5O2
